US07667049B2
Synthesis of (3R,4S)-1-benzyloxycarbonyl-4-hydroxypyrrolidine-3-carboxylic acid
42.1 g of 1-benzyl 3-ethyl (3R,4S)-4-hydroxypyrrolidine-1,3-dicarboxylate (equivalent to 114 mmol) was suspended in 330 mL of ethanol. To this suspension, 330 mL of water was added and the mixture was cooled in an ice bath. While the mixture was stirred, 6.84 g of a solution of sodium hydroxide (171 mmol) in 330 mL of water was added dropwise at an internal temperature of 5 to 10° C. and the mixture was stirred for 1 hour. Subsequently, 6.60 g of activated carbon was added and the mixture was stirred at room temperature for 30 minutes. The insoluble material was separated by filtration through Celite and washed with 110 mL of water. The filtrate and the wash were combined and ethanol (approx. 330 mL) was evaporated under reduced pressure. The resulting residue was washed twice with 200 mL of diisopropyl ether and the aqueous layer was filtered through Celite. 30.0 mL of 6 mol/L hydrochloric acid was added to the filtrate and the mixture was stirred for 10 minutes. 300 mL of ethyl acetate and 200 g of sodium chloride were added and the mixture was further stirred for 30 minutes. The organic layer was collected and washed with 300 mL of 28% brine. To this layer, 30.1 g of anhydrous sodium sulfate was added and the mixture was stirred for 30 minutes. The mixture was then filtered through a cotton plug and washed with 50 mL of ethyl acetate. The filtrate and the wash were combined and concentrated under reduced pressure. The resulting residue was dried in vacuo at room temperature for 4 hours to give 26.5 g of a crude product of the title compound as a dark brown amorphous material. This product was used in the subsequent step without further purification.

reactant | 1-benzyl 3-ethyl (3R,4S)-4-hydroxypyrrolidine-1,3-dicarboxylate | 114 mmol, 42.1 g | O[C@H]1[C@@H](CN(C1)C(=O)OCC1=CC=CC=C1)C(=O)OCC | C15H19NO5
reactant | sodium hydroxide | 171 mmol | [OH-].[Na+]
solvent | ethanol | 330 mL | C(C)O | C2H6O
solvent | water | 330 mL | O | H2O
solvent | water | 330 mL | O | H2O
product | (3R,4S)-1-benzyloxycarbonyl-4-hydroxypyrrolidine-3-carboxylic acid | 26.5 g | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H](C1)O)C(=O)O | C13H15NO5
